datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CO[C:63]1=[C:62]([N:61]2[C:10]([CH:20]3[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]4=[N:35]O[N+:42]([O-])=[C:41]34)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C[C:11]1=[CH:10]CCCC1>>C[C+:11]1CCCC[CH:10]1[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)[C:63]1=[CH:62][CH:11]=[CH:10][S:64]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].C[Si](C)(C)[C:63]1=[CH:62][CH+:11][CH:10]([S:20]C(F)(F)F)[S:64]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(CC2CCC[NH:10]2)C=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCCC2CC2=CC=CC=C2)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:61][C:11]([C:10](C1CCCCC1)([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:10]2CCC1CC2.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>C[C:20]1([N+:10]23CCC(CC2)CC3)CC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[C:10]([C:11]#[N:12])([CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
"COC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1>>COC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]([C:21]1=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1>>C1=CC=C([N+:12]2=[CH:11][N:10]([C:20]3(C4=CC=CC=C4)[S:31]CC[S:41]3)[CH:64]=[CH:63]2)C=C1 10,11=10,20;12=11,12"
"CC[O:82][C:71]([CH-:10][C:101]([C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:102])=[O:72].[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>CC[O:82][C:71]([CH:10]([CH:20]1[CH:21]=[C:22]([O-:23])[O:43][C:31]1=[O:32])[C:101]([C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:102])=[O:72] 10=20;20,21=21,22;22,23=23"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[F:20])[C@@H]1C(C)(C)C.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl.[N-:10]=[N+:61]=[N-:62]>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([N:10]=[N+:61]=[N-:62])([O-:21])[C:41](Cl)=[C:42]1Cl 10=20;20,21=21"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([CH:20](C2=CC(F)=CC(F)=C2)C2C(C3=CC(F)=CC(F)=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:72](=[O:73])[O:83]1 10=20;20,21=21"
"C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2.C[O:12][C:11]1=[CH:10][S:61][CH:62]=[CH:63]1>>C[O+:12]=[C:11]1[CH:10]([CH:20](C)[N:21]2C3=CC=CC=C3C3=C2C=CC=C3)[S:61][CH:62]=[CH:63]1 10,11=10,20;12=11,12;20,21=21"
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH2:20][CH:21]=[C:22]([O-:23])[O:33]C)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
